US08017611B2
N,N-dimethylpyridin-4-amine (0.147 g), was added to a stirred suspension of 5-bromo-3-(4-cyano-1,3-benzoxazol-2-yl)-pyridin-2-amine (1.9 g) and di-tert-butyl dicarbonate (3.55 g) in DMF (50 ml) at 25° C. under nitrogen. The resulting suspension was stirred at 25° C. for 45 hours. The DMF was evaporated under reduce pressure. The mixture was adsorbed on silica gel. The crude product was purified by flash chromatography on silica gel eluting with 0 to 2% methanol in dichloromethane. The solvent was evaporated to dryness to afford tert-butyl N-[5-bromo-3-(4-cyano-1,3-benzoxazol-2-yl)-2-pyridyl]-N-tert-butoxycarbonyl-carbamate (2.67 g) as a pale yellow solid. NMR Spectrum: (CDCl3) 1.42 (s, 18H), 7.51 (dd, 1H), 7.74 (dd, 1H), 7.86 (dd, 1H), 8.77 (d, 1H), 8.87 (d, 1H); Mass spectrum: M(−Boc)+H+ 417.

reactant | 5-bromo-3-(4-cyano-1,3-benzoxazol-2-yl)-pyridin-2-amine | 1.9 g | BrC=1C=C(C(=NC1)N)C=1OC2=C(N1)C(=CC=C2)C#N | C13H7BrN4O
reactant | di-tert-butyl dicarbonate | 3.55 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
catalyst | N,N-dimethylpyridin-4-amine | 0.147 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
product | tert-butyl N-[5-bromo-3-(4-cyano-1,3-benzoxazol-2-yl)-2-pyridyl]-N-tert-butoxycarbonyl-carbamate | 2.67 g | BrC=1C=C(C(=NC1)N(C(OC(C)(C)C)=O)C(=O)OC(C)(C)C)C=1OC2=C(N1)C(=CC=C2)C#N | C23H23BrN4O5
